US06835727B2
N-(t-Butoxycarbamoyl)-(D)-proline N-hydroxysuccinimide ester (10) (1.25 g, 4.0 mmol) and (L)-leucine benzyl ester (0.885 g, 4.0 mmol) were stirred at ambient temperature in acetonitrile (10 mL) for 14 h. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was separated and washed with 1N HCl, saturated NaHCO3, and saturated NaCl. After drying over anhydrous MgSO4, evaporation of solvent gave N-(t-butyoxycarbamoyl)-(D)-prolylleucine benzyl ester as a colorless oil. N-(t-Butoxycarbamoyl)-(D)-prolylleucine benzyl ester (1.38 g, 3.3 mmol) was stirred for one hour at ambient temperature with a 30% (v/v) solution of trifluroacetic acid in dichloromethane (20 mL). The solvent was removed by rotary evaporation and the residue partitioned between ethyl acetate and a 50% (v/v) solution of saturated aq. NaHCO3 and saturated aq. Na2CO3. The organic phase was separated, washed with saturated aq. NaCl, and dried over anhydrous MgSO4. Filtration and solvent evaporation gave (D)-prolylleucine benzyl ester as a white semi-solid.

reactant | N-(t-Butoxycarbamoyl)-(D)-prolylleucine benzyl ester | 3.3 mmol, 1.38 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H]1N(CCC1)C(NOC(C)(C)C)=O)=O)CC(C)C)=O | C23H35N3O5
reactant | trifluroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (D)-prolylleucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H]1NCCC1)=O)CC(C)C)=O | C18H26N2O3
